US07863315B2
Preparation of 6-(4-((5-fluoro-2-oxoindolin-3-ylidene)methyl)benzamido)-hexanoic acid
6-(4-((5-fluoro-2-oxoindolin-3-ylidene)methyl)benzamido)hexanoic acid methyl ester (410 mg, 1 mmol) and 300 ml of CH3OH were stirred at room temperature while 25 ml of 4 N solution of LiOH in H2O was added. The mixture was stirred for 24 hours at room temperature. The mixture is neutralized with concentrated hydrochloric acid to pH 7 and evaporated under vacuum to remove methanol. The residue was adjusted to pH 3 with concentrated hydrochloric acid. The solids were collected by vacuum filtration, washed with water and dried under vacuum to give the title compound (305 mg, 77% yield) as a brown solid. LC-MS (m/z) 397 (M+1).

reactant | 6-(4-((5-fluoro-2-oxoindolin-3-ylidene)methyl)benzamido)hexanoic acid methyl ester | 1 mmol, 410 mg | COC(CCCCCNC(C1=CC=C(C=C1)C=C1C(NC2=CC=C(C=C12)F)=O)=O)=O | C23H23FN2O4
reactant | CH3OH | 300 ml | CO | CH4O
reactant | LiOH | [Li+].[OH-]
reactant | hydrochloric acid | Cl | ClH
solvent | H2O | O | H2O
product | 6-(4-((5-fluoro-2-oxoindolin-3-ylidene)methyl)benzamido)-hexanoic acid | 305 mg, 77% yield | FC=1C=C2C(C(NC2=CC1)=O)=CC1=CC=C(C(=O)NCCCCCC(=O)O)C=C1 | C22H21FN2O4
